US07576099B2
tert-Butyl 4-bromo-2-fluorobenzoate
To a stirred solution of 4-bromo-2-fluorobenzoic acid (3.0 g, 0.014 mol) in THF (50 mL) at 0° C. was added DMF (0.1 mL) and oxalyl chloride (1.5 mL, 0.018 mol). The mixture was stirred at 0° C. for 1 h and then warmed to rt. The solvent was removed under reduced pressure. The obtained acid chloride was added to a mixture of tert-butyl alcohol (5.0 g, 0.067 mol), pyridine (10 mL), and CH2Cl2 (50 mL) at 0° C. The mixture was stirred at rt for 3 h, and then at 50° C. overnight. The mixture was washed with water, 2 N NaOH, and brine, dried (MgSO4), and concentrated under vacuum. The residue was purified by column to give a colorless oil (1.5 g, 45%).

reactant | 4-bromo-2-fluorobenzoic acid | 0.014 mol, 3.0 g | BrC1=CC(=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | DMF | 0.1 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 0.018 mol, 1.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tert-butyl alcohol | 0.067 mol, 5.0 g | C(C)(C)(C)O | C4H10O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | tert-Butyl 4-bromo-2-fluorobenzoate | 1.5 g, 45% | BrC1=CC(=C(C(=O)OC(C)(C)C)C=C1)F | C11H12BrFO2
